US05559225
Benzhydryl 7-formamido-3-(1-piperidinyl)carbonyloxymethyl-2-cephem-4-carboxylate
To a solution of benzhydryl 7-formamido-3-hydroxymethyl-3-cephem-4-carboxylate (4.24 g) in tetrahydrofuran (80 ml), N,N'-carbonyldiimidazole (1.62 g) was added under ice cooling, followed by stirring at the same temperature for 1 hour and 25 minutes. Then, the resulting solution was added with a solution of piperidine (0.85 g) in tetrahydrofuran (10 ml) and stirred at the same temperature for 1 hour and 20 minutes. Further stirring was conducted for one hour at room temperature. The reaction mixture was added with piperidine (0.17 g), followed by stirring at room temperature for 11 hours and 10 minutes and then, the resulting reaction mixture was concentrated under reduced pressure. The residue was dissolved in ethyl acetate. The resulting solution was washed successively with 1N hydrochloric acid, water and a saturated aqueous chloride solution, followed by drying over magnesium sulfate. Then, the solvent was distilled off under reduced pressure. The residue was purified by chromatography on a silica gel column, whereby benzhydryl 7-formamido-3-(1-piperidinyl)carbonyloxymethyl-2-cephem-4-carboxylate (2.3 g, 43.0%).

reactant | benzhydryl 7-formamido-3-hydroxymethyl-3-cephem-4-carboxylate | 4.24 g | C(=O)NC1[C@@H]2N(C(=C(CS2)CO)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C22H20N2O5S
reactant | piperidine | 0.85 g | N1CCCCC1 | C5H11N
reactant | piperidine | 0.17 g | N1CCCCC1 | C5H11N
reactant | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | Benzhydryl 7-formamido-3-(1-piperidinyl)carbonyloxymethyl-2-cephem-4-carboxylate | C(=O)NC1[C@@H]2N(C(C(=CS2)COC(=O)N2CCCCC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C28H29N3O6S
